US04760087
1-(3',4'-Dihydroxyphenyl)-11-hydroxy-undec-1Z-en-9-yne
The 3,4-bis-(tert-butyldimethylsilyloxy)-benzaldehyde used in Example 23d as one of the starting materials was prepared by reacting 2.14 g of 3,4-dihydroxybenzaldehyde, 5.83 g of tert-butyldimethylchlorosilane and 2.58 g of imidazole in the manner described in Example 14c. Chromatography with petroleum ether/ether (6:1) yielded 3.57 g of the title compound in the form of crystals melting at 44°-46° C.

reactant | 3,4-bis-(tert-butyldimethylsilyloxy)-benzaldehyde | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=O)C=CC1O[Si](C)(C)C(C)(C)C | C19H34O3Si2
reactant | 3,4-dihydroxybenzaldehyde | 2.14 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | tert-butyldimethylchlorosilane | 5.83 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 2.58 g | N1C=NC=C1 | C3H4N2
product | 1-(3',4'-Dihydroxyphenyl)-11-hydroxy-undec-1Z-en-9-yne | 3.57 g | OC=1C=C(C=CC1O)\C=C/CCCCCCC#CCO | C17H22O3
